US08049016B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((2-methylthiazol-5-yl)methyl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with (2-methylthiazol-5-yl)methanamine to react with 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 65% yield: mp 165-167° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.00 (s, 1H), 6.30-6.27 (m, 1H), 4.60 (d, J=5.4 Hz, 2H), 4.13-4.08 (m, 2H), 3.72-3.66 (m, 2H), 3.18 (d, J=7.1 Hz, 2H), 2.69 (s, 3H), 2.60 (s, 3H), 0.97-0.92 (m, 1H), 0.60-0.53 (m, 2H), 0.27-0.22 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 166.6, 162.4, 157.6, 155.2, 152.9, 152.0, 117.2, 114.9, 48.6, 42.2, 42.1, 39.9, 19.1, 17.2, 8.9, 3.4; MS (ES+) m/z 392.0 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | (2-methylthiazol-5-yl)methanamine | CC=1SC(=CN1)CN | C5H8N2S
reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((2-methylthiazol-5-yl)methyl)thiazole-5-carboxamide | 65% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CN=C(S1)C)=O | C17H21N5O2S2
